US07851493B2
To a cooled suspension of 2.73 g lithium aluminium hydride in 180 ml tetrahydrofuran a solution of 12.3 g 2-(4-methoxy-phenyl)-4-(tetrahydro-pyran-2-yloxymethyl)-oxazole-5-carboxylic acid ethyl ester in 120 ml tetrahydrofuran were added at 0° C. The ice bath was removed and the reaction mixture stirred at room temperature for one hour. The reaction mixture was cooled in an ice bath again and 100 ml ethyl acetate were added followed by the addition of 300 ml methyl-tert-butyl ether. Then a solution of 10.92 g sodium hydroxide in 12.3 ml water was added. Solid precipitate was filtered off through a plug of celite. The filtrate was dried over MgSO4 and then the solvent was removed in vacuo to obtain 11.8 g [2-(4-methoxy-phenyl)-4-(tetrahydro-pyran-2-yloxymethyl)-oxazol-5-yl]-methanol as a solid.

reactant | lithium aluminium hydride | 2.73 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(4-methoxy-phenyl)-4-(tetrahydro-pyran-2-yloxymethyl)-oxazole-5-carboxylic acid ethyl ester | 12.3 g | C(C)OC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)OC)COC1OCCCC1 | C19H23NO6
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | [2-(4-methoxy-phenyl)-4-(tetrahydro-pyran-2-yloxymethyl)-oxazol-5-yl]-methanol | 11.8 g | COC1=CC=C(C=C1)C=1OC(=C(N1)COC1OCCCC1)CO | C17H21NO5
